US08026237B2
Preparation of 4-methyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester
To a solution of 4-methyl-5-(2-trifluoromethyl-phenyl)-2,3-dihydro-1H-pyrrole-3-carboxylic acid methyl ester (10 g, 35 mmol) in toluene was added 10% Pd/C (3.3 g). The resulting suspension was heated to reflux for 3 days. After cooling, the solids were removed by filtration. The filtrate was washed with toluene and concentrated under reduced pressure to yield an oil, which was purified by column chromatography (silica), eluting with EtOAc-hexane (1:1) to give the title compound (2.9 g, 29%). MS (ES): 284 (MH+).

reactant | 4-methyl-5-(2-trifluoromethyl-phenyl)-2,3-dihydro-1H-pyrrole-3-carboxylic acid methyl ester | 35 mmol, 10 g | COC(=O)C1CNC(=C1C)C1=C(C=CC=C1)C(F)(F)F | C14H14F3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 3.3 g | [Pd] | Pd
product | 4-methyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester | 2.9 g, 29% | COC(=O)C1=CNC(=C1C)C1=C(C=CC=C1)C(F)(F)F | C14H12F3NO2
